US07491723B2
1-[1-(3′,4′-dichloro-1,1′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclobutanol dihydrochloride
In an analogous manner to Example 135, step 4, 1-[1-(3′,4′-dichloro-111′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclobutanol dihydrochloride was prepared from tert-butyl 4-[2-(3′,4′-dichloro-1,1′-biphenyl-4-yl)-2-(1-hydroxycyclobutyl)ethyl]piperazine-1-carboxylate. MS (ES) m/z 405.3 ([M+H]+); HRMS: calcd for C22H26Cl2N2O.2.00 HCl, 476.0956; found (ESI), 405.1486.

reactant | tert-butyl 4-[2-(3′,4′-dichloro-1,1′-biphenyl-4-yl)-2-(1-hydroxycyclobutyl)ethyl]piperazine-1-carboxylate | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1(CCC1)O | C27H34Cl2N2O3
reactant | HCl | Cl | ClH
product | 1-[1-(3′,4′-dichloro-1,1′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclobutanol dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CN1CCNCC1)C1(CCC1)O | InChI=1S/C22H26Cl2N2O.2ClH/c23-20-7-6-18(14-21(20)24)16-2-4-17(5-3-16)19(22(27)8-1-9-22)15-26-12-10-25-11-13-26;;/h2-7,14,19,25,27H,1,8-13,15H2;2*1H
